US06949542B2
8-Chloro-4-(3-pyridin-3-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [4-chloro-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example M182) (272 mg, 0.482 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (150 mg, 70%).

reactant | [4-chloro-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.482 mmol, 272 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)Cl)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C27H25ClF3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-(3-pyridin-3-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=CC2)=O)C1)OCC(F)(F)F | C22H15ClF3N3O2
